US07304066B2
3-[6-(N-tert-butoxycarbonylamino)-1-hexyl-oxy]-pyridine
3-Hydroxypyridine (262 mg) was added to a suspension of 60% sodium hydride (128 mg) in N,N-dimethylformamide (5 ml) and the mixture was stirred at 60° C. for 30 minutes. After cooling in ice a solution of N-(tert-butoxycarbonyl)-6-bromo-hexylamine (770 mg) (Helv. Chim. Acta 76 891 (1993) in N,N-dimethylformamide (3 ml) was added dropwise and stirring was continued overnight at room temperature. Ice and water were added and the mixture was extracted three times with diethyl ether. The organic phases were washed with saturated sodium chloride, dried and evaporated to leave a yellow oil which after purification by chromatography on silica gel with diethyl ether as eluent gave the desired compound as a colourless oil.

reactant | 3-Hydroxypyridine | 262 mg | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | 128 mg | [H-].[Na+]
reactant | N-(tert-butoxycarbonyl)-6-bromo-hexylamine | 770 mg | C(C)(C)(C)OC(=O)NCCCCCCBr | C11H22BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-[6-(N-tert-butoxycarbonylamino)-1-hexyl-oxy]-pyridine | C(C)(C)(C)OC(=O)NCCCCCCOC=1C=NC=CC1 | C16H26N2O3
